US08895733B2
Intermediate 123: 1-(Diphenylmethyl)-3-(4-fluorophenoxy)azetidine
To a stirred suspension of sodium hydride (60% dispersion in mineral oil, 0.80 g, 20 mmol) in anhydrous DMF (10 ml) under nitrogen was added dropwise a solution of 1-benzhydryl-azetidin-3-ol (3.5 g, 15 mmol) in DMF (10 ml)—Care: hydrogen gas evolution! The mixture was stirred 30 min after gas evolution had ceased then 1,4-difluorobenzene (1.8 mL, 18 mmol) was added dropwise. The mixture was heated to 100 C and stirred for 12 h, then cooled to room temperature and poured into aq sodium hydrogencarbonate solution (50 ml) and extracted twice with EtOAc (2×50 ml). The combined organic layers were washed with water, concentrated under vacuum and purified by flash column chromatography (25 g silica gel; heptane-EtOAc: 1:0-9:1). The product-containing fractions were combined, concentrated under vacuum, washed with heptane and dried under vacuum to give the title compound (3.256 g, 67%). Method B HPLC-MS: MH+ requires m/z=334 Found: m/z=334, Rt=1.69 min (89%). 1H NMR (250 MHz, CDCl3) δ ppm 7.48-7.39 (4H, m), 7.39-7.12 (6H, m), 6.94 (2H, t), 6.71 (2H, dd), 4.75 (1H, m), 4.46 (1H, s), 3.78-3.65 (2H, m), and 3.20-3.07 (2H, m).

reactant | sodium hydride | 20 mmol, 0.80 g | [H-].[Na+]
reactant | 1-benzhydryl-azetidin-3-ol | 15 mmol, 3.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | hydrogen | [H][H] | H2
reactant | 1,4-difluorobenzene | 18 mmol, 1.8 mL | FC1=CC=C(C=C1)F | C6H4F2
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(Diphenylmethyl)-3-(4-fluorophenoxy)azetidine | 3.256 g, 67% | C1(=CC=CC=C1)C(N1CC(C1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | C22H20FNO
